US05998459
2-Benzylamino-3-cyano-4-methyl-5-(2-fluorophenyl)pyrrole (compound No. 74)
To a solution of 2-amino-3-cyano-4-methyl-5-(2fluorophenyl)pyrrole (Compound No. 1) obtained in Example 5 (0.21 g) in methylene chloride (5 ml) was added a small amount of magnesium sulfate and the mixture was stirred under ice-cooling. Then, a solution of benzaldehyde (0.11 g) in methylene chloride (5 ml) was added dropwise at the same temperature and the mixture was stirred at room temperature for 5 days. The magnesium sulfate was then filtered off and the filtrate was concentrated under reduced pressure. After the residue was dissolved in methanol (15 ml), sodium borohydride (76 mg) was added thereto under ice-cooling. This mixture was stirred at room temperature for 1 hour and the reaction mixture was concentrated under reduced pressure. To the residue was added ethyl acetate, and the ethyl acetate layer was washed with water, dried over MgSO4, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Wakogel C-200, 50 g; eluent: chloroform/methanol=50/1) and the resulting crystals were recrystallized from benzene/n-hexane to provide the title compound as light-yellow powder (0.17 g). m.p. 151-152° C.

reactant | 2-amino-3-cyano-4-methyl-5-(2fluorophenyl)pyrrole | NC=1NC(=C(C1C#N)C)C1=C(C=CC=C1)F | C12H10FN3
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | benzaldehyde | 0.11 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-Benzylamino-3-cyano-4-methyl-5-(2-fluorophenyl)pyrrole | 0.17 g | C(C1=CC=CC=C1)NC=1NC(=C(C1C#N)C)C1=C(C=CC=C1)F | C19H16FN3
